US09403835B2
Step 1: 3-chloro-4,4-diethoxy-butan-2-one
A solution of BF3.Et2O (9.35 mL; 108 mmol; 2 eq.) in DCM (100 mL) was added dropwise at −30° C. over 50 minutes to diethoxymethoxy-ethane (18 mL; 108 mmol; 2 eq.). The reaction mixture was stirred at this temperature for a further 40 minutes then allowed to return to room temperature and was stirred at room temperature for 1 hour. After cooling down to −78° C., 1-chloro-propan-2-one (4.3 mL; 54 mmol; 1 eq.) was added dropwise followed by DIEA (28 mL; 162 mmol; 3 eq.) at such a rate to keep the temperature below −70° C. The resulting mixture was stirred at −70° C. for one hour then poured onto sat. aq. NaHCO3. The two layers were separated and the aqueous phase extracted with DCM. The combined organics were washed with cold diluted H2SO4 then water, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (6 g, 48%) as a brown oil which was used without further purification. 1H NMR (DMSO-d6) δ 4.81 (d, J=6.0 Hz, 1H), 4.64 (d, J=6.0 Hz, 2H), 3.70-3.44 (m, 4H), 2.25 (s, 3H), 1.30-1.17 (m, 6H).

reactant | BF3.Et2O | 108 mmol, 9.35 mL, 2 eq. | B(F)(F)F.CCOCC
reactant | diethoxymethoxy-ethane | 108 mmol, 18 mL, 2 eq. | C(C)OC(OCC)OCC | C7H16O3
reactant | 1-chloro-propan-2-one | 54 mmol, 4.3 mL, 1 eq. | ClCC(C)=O | C3H5ClO
reactant | DIEA | 162 mmol, 28 mL, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4,4-diethoxy-butan-2-one | 6 g, 48% | ClC(C(C)=O)C(OCC)OCC | C8H15ClO3
